US05648370
a) 2-[4-Fluorophenyl]ethyl allyl ether
2-[4-Fluorophenyl]ethanol (7.0 g) was added slowly to a stirred suspension of sodium hydride (1.25 g, 60% as dispersion in oil prewashed with petroleum ether bp 60°-80°) in DMF (50 ml). The mixture was stirred for 30 min at room temperature. Allyl bromide (6.0 g) was then added slowly and the whole allowed to stir overnight. The reaction was partitioned between water and ether. The aqueous layer was further extracted with ether and the combined ethereal extracts were washed with water and dried (MgSO4). The ether was removed under reduced pressure to yield the crude subtitled compound as a colourless oil (8.7 g, 96%).

reactant | 2-[4-Fluorophenyl]ethanol | 7.0 g | FC1=CC=C(C=C1)CCO | C8H9FO
reactant | sodium hydride | 1.25 g | [H-].[Na+]
reactant | Allyl bromide | 6.0 g | C(C=C)Br | C3H5Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-[4-Fluorophenyl]ethyl allyl ether | 8.7 g, 96% | C(C=C)OCCC1=CC=C(C=C1)F | C11H13FO
